US07741321B2
To a solution of 1-(4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester (30.0 g, 146 mmol) and MOMCl (29.1 g, 364 mmol) in CS2 (300 mL) was added TiCl4 (8.30 g, 43.5 mmol) at 5° C. The reaction mixture was heated at 30° C. for 1 day and poured into ice-water. The mixture was extracted with CH2Cl2 (150 mL×3). The combined organic extracts were evaporated under vacuum to give crude 1-(3-chloromethyl-4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester (38.0 g), which was used in the next step without further purification.

reactant | 1-(4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 146 mmol, 30.0 g | COC(=O)C1(CC1)C1=CC=C(C=C1)OC | C12H14O3
reactant | MOMCl | 364 mmol, 29.1 g | C(OC)Cl | C2H5ClO
solvent | CS2 | 300 mL | C(=S)=S | CS2
catalyst | TiCl4 | 43.5 mmol, 8.30 g | Cl[Ti](Cl)(Cl)Cl
product | 1-(3-chloromethyl-4-methoxy-phenyl)-cyclopropanecarboxylic acid methyl ester | 38.0 g | COC(=O)C1(CC1)C1=CC(=C(C=C1)OC)CCl | C13H15ClO3
